US07816397B2
2-Methoxycarbonylbenzyltriphenylphosphonium bromide
74.2 g of triphenylphosphine (0.28 M) in 200 ml of acetonitrile are added to a solution of 74.5 g of methyl 2-bromomethylbenzoate (0.32 M) in 170 ml of acetonitrile in a 2000 ml reactor. The reaction mixture is refluxed with stirring for one hour and then cooled. 1000 ml of diethyl ether are then added slowly. Stirring is continued for 2 hours. A white precipitate forms. The solid is filtered off and washed with acetone. After drying, 112.6 g of a white powder are obtained (81% yield).

reactant | triphenylphosphine | 0.28 M, 74.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 2-bromomethylbenzoate | 0.32 M, 74.5 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 170 ml | C(C)#N | C2H3N
product | 2-Methoxycarbonylbenzyltriphenylphosphonium bromide | 112.6 g, 81% yield | [Br-].COC(=O)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C27H24O2P.BrH/c1-29-27(28)26-20-12-11-13-22(26)21-30(23-14-5-2-6-15-23,24-16-7-3-8-17-24)25-18-9-4-10-19-25;/h2-20H,21H2,1H3;1H/q+1;/p-1
